US09351973B2
Step B. 4-methyl-3-(pyridin-3-yl)-1H-pyrazol-5-amine
To a solution of 2-methyl-3-oxo-3-(pyridin-3-yl) propanenitrile (1.5 g, 9.4 mmol) in EtOH (20 mL) was added 85% hydrazine hydrate (2 mL). The resulting mixture was heated to reflux for 2 hours. After cooling to rt, the solvent was removed in vacuo and the crude product purified by column chromatography (DCM:MeOH=10:1) to give the desired product: MS (m/z): 175.0 [M+H]+, 1HNMR (400 MHz, CD3OD) δ 8.71 (d, 1H, J=2.0 Hz), 8.50-8.51 (m, 1H), 7.99 (d, 1H, J=8.0 Hz), 7.50-7.55 (m, 1H), 2.06 (s, 3H).

reactant | 2-methyl-3-oxo-3-(pyridin-3-yl) propanenitrile | 9.4 mmol, 1.5 g | CC(C#N)C(C=1C=NC=CC1)=O | C9H8N2O
reactant | hydrazine hydrate | 2 mL | O.NN
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-methyl-3-(pyridin-3-yl)-1H-pyrazol-5-amine | CC=1C(=NNC1N)C=1C=NC=CC1 | C9H10N4
